US08877720B2
3′-butyrolactamyl epirubicin
10 mg of epirubicin hydrochloride was dissolved in 5 ml of anhydrous DMF. The mixture was cooled to 0° C.-5° C. in an ice bath. 7 mg of diisopropyl ethyl amine was added to the mixture. The resulting mixture was stirred for 10 min. 2.4 mg of 4-chlorobutyryl chloride was added to the resulting mixture. The reaction was performed for 30 min. 100 ml of water was added to the resultant mixture in an ice bath. The resulting mixture was extracted with chloroform three times (5 ml×3). The chloroform layers were combined. The combined layers were washed once with saline, dried over anhydrous magnesium sulfate, filtered and rotary-evaporated to remove the solvent. The resultant product was purified with thin layer chromatography and eluted with chloroform:methanol=95:5.8 mg of the product were dissolved in 3 ml of anhydrous DMF. The resulting mixture was protected with argon and cooled in an ice bath to a temperature of −5° C. to 0° C. 0.3 mg of sodium hydride was added to the mixture. The resulting mixture was stirred for 24 hr. After the reaction completed, 50 ml of water were added. The resultant mixture was extracted three times with chloroform (5 ml×3). The chloroform layers were combined. The combined layers were washed once with saturated saline, dried over anhydrous magnesium sulfate, filtered and rotary-evaporated to remove the solvent. The product was purified with thin layer chromatography and eluted with chloroform:methanol=30:1 to give 6 mg of the object product. MS: 611

reactant | epirubicin hydrochloride | 10 mg | C[C@H]1[C@@H]([C@H](C[C@@H](O1)O[C@H]2C[C@@](CC=3C2=C(C4=C(C3O)C(=O)C5=CC=CC(=C5C4=O)OC)O)(C(=O)CO)O)N)O.Cl
reactant | diisopropyl ethyl amine | 7 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-chlorobutyryl chloride | 2.4 mg | ClCCCC(=O)Cl | C4H6Cl2O
reactant | water | 100 ml | O | H2O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | epirubicin | 6 mg | C[C@H]1[C@@H]([C@H](C[C@@H](O1)O[C@H]2C[C@@](CC=3C2=C(C4=C(C3O)C(=O)C5=CC=CC(=C5C4=O)OC)O)(C(=O)CO)O)N)O | C27H29NO11
